US07960394B2
3-Methyl-2-[4-(1-cyclopropyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 85 but using anthranilic acid, methylamine, 4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and [(1-ethoxycyclopropyl)oxy](trimethyl)silane.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methylamine | CN | CH5N
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | [(1-ethoxycyclopropyl)oxy](trimethyl)silane | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
product | 3-Methyl-2-[4-(1-cyclopropyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone | CN1C(=NC2=CC=CC=C2C1=O)C1=CC=C(C=C1)OC1CCN(CC1)C1CC1 | C23H25N3O2
